US06500952B1
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-dimethylaminocarbonyl-5-acetylaminobenzenesulfonamide
0.13 ml of acetyl chloride is slowly added dropwise to a mixture of 0.64 g of N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-5-amino-2-dimethylaminocarbonylbenzenesulfonamide and 10 ml of dimethylacetamide. After the end of reaction, the reaction mixture is concentrated under reduced pressure and the residue is washed with water and ethyl acetate, to give 0.45 g of the desired product in high purity (>92%, HPLC).

reactant | acetyl chloride | 0.13 ml | C(C)(=O)Cl | C2H3ClO
reactant | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-5-amino-2-dimethylaminocarbonylbenzenesulfonamide | 0.64 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC(=C1)N)C(=O)N(C)C | C16H20N6O6S
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-dimethylaminocarbonyl-5-acetylaminobenzenesulfonamide | 0.45 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC(=C1)NC(C)=O)C(=O)N(C)C | C18H22N6O7S
